US06130228
2-Hydroxymethylene-indan-1-one (Intermediate Leading to Compound 2)
1-Indanone (Aldrich) (5.0 g, 37.8 mmol) in toluene (25 cm3) was added dropwise, to a stirring solution of sodium hydride (Aldrich) (1.8 g, 45.4 mmol 60% w/w dispersion in oil), ethyl formate (Aldrich) (5.6 g, 75.6 mmol) and toluene (50 cm3), under nitrogen, at 0° C. The reaction was stirred for 17 hours before adding water (50 cm3). The organic layer was washed with water and 2M NaOH. The combined aqueous extracts were acidified with 10 M HCl and the precipitate extracted with dichloromethane. The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to afford a yellow-orange solid. An analytically pure sample was obtained by Kugelrohr distillation (0.01 mmHg/100° C.) to give a yellow solid m.p. 110-112° C.

reactant | 1-Indanone | 37.8 mmol, 5.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | sodium hydride | 45.4 mmol, 1.8 g | [H-].[Na+]
reactant | ethyl formate | 75.6 mmol, 5.6 g | C(=O)OCC | C3H6O2
reactant | water | 50 cm3 | O | H2O
solvent | toluene | 25 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxymethylene-indan-1-one | OC=C1C(C2=CC=CC=C2C1)=O | C10H8O2
